US05837708
In analogy to Example 45, by reacting 4,6-dichloro-2-(3-methoxy-benzyl)-5-phenoxy-pyrimidine with potassium 5-isopropyl-pyridine-2-sulphonamide there was obtained 5-isopropyl-pyridine-2-sulphonic acid [6-chloro-2-(3-methoxy-benzyl)-5-phenoxy-pyrimidin-4-yl]-amide as a yellow foam. MS: 523 (M-H)

reactant | 4,6-dichloro-2-(3-methoxy-benzyl)-5-phenoxy-pyrimidine | ClC1=NC(=NC(=C1OC1=CC=CC=C1)Cl)CC1=CC(=CC=C1)OC | C18H14Cl2N2O2
reactant | potassium 5-isopropyl-pyridine-2-sulphonamide | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N.[K]
product | 5-isopropyl-pyridine-2-sulphonic acid [6-chloro-2-(3-methoxy-benzyl)-5-phenoxy-pyrimidin-4-yl]-amide | ClC1=C(C(=NC(=N1)CC1=CC(=CC=C1)OC)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=CC=CC=C1 | C26H25ClN4O4S
